US04329339
A 500 ml Erlenmeyer flask with 100 ml of vegetative culture of Streptomyces galilaeus OBB-111, obtained by a process analogous to that described in Example 1, containing auramycin A, auramycin B, sulfurmycin A and sulfurmycin B, was allowed to stand at room temperature for 12 hours and extracted with 200 ml of a solvent mixture of chloroform and methanol (1:1, v/v). The chloroform layer was separated, concentrated in vacuo and chromatographed by thin layer chromatography (toluene/methanol=20:1, v/v). The bands containing 7-deoxysulfurmycinone and 7-deoxyauramycinone were scraped off, extracted with chloroform and concentrated in vacuo to dryness to give 1.4 mg of pure 7-deoxysulfurmycinone and 1.2 mg of pure 7-deoxyauramycinone, respectively.

reactant | auramycin A | C[C@H]1[C@H]([C@H](C[C@@H](O1)O[C@H]2C[C@@]([C@@H](C3=C2C(=C4C(=C3)C(=O)C5=C(C4=O)C(=CC=C5)O)O)C(=O)OC)(C)O)N(C)C)O[C@H]6C[C@@H]([C@@H]([C@@H](O6)C)O[C@H]7CCC(=O)[C@@H](O7)C)O | C41H51NO15
reactant | auramycin B | C[C@H]1[C@@H]2[C@H](C[C@@H](O1)O[C@@H]3[C@@H](O[C@H](C[C@@H]3N(C)C)O[C@H]4C[C@@]([C@@H](C5=C4C(=C6C(=C5)C(=O)C7=C(C6=O)C(=CC=C7)O)O)C(=O)OC)(C)O)C)O[C@H]8CC(=O)[C@@H](O[C@H]8O2)C | C41H49NO15
reactant | sulfurmycin A | C[C@H]1[C@H]([C@H](C[C@@H](O1)O[C@H]2C[C@@]([C@@H](C3=C2C(=C4C(=C3)C(=O)C5=C(C4=O)C(=CC=C5)O)O)C(=O)OC)(CC(=O)C)O)N(C)C)O[C@H]6C[C@@H]([C@@H]([C@@H](O6)C)O[C@H]7CCC(=O)[C@@H](O7)C)O | C43H53NO16
reactant | sulfurmycin B | C[C@H]1[C@@H]2[C@H](C[C@@H](O1)O[C@@H]3[C@@H](O[C@H](C[C@@H]3N(C)C)O[C@H]4C[C@@]([C@@H](C5=C4C(=C6C(=C5)C(=O)C7=C(C6=O)C(=CC=C7)O)O)C(=O)OC)(CC(=O)C)O)C)O[C@H]8CC(=O)[C@@H](O[C@H]8O2)C | C43H51NO16
product | 7-deoxysulfurmycinone | 1.4 mg | CC(=O)C[C@]1(CCC2=C([C@H]1C(=O)OC)C=C3C(=C2O)C(=O)C4=C(C3=O)C=CC=C4O)O | C23H20O8
